US06413765B1
Leu.
pseudomesenteroides was cultivated in 10 ml M17 (0.5% glucose) for 3 days followed by cultivation for 120 minutes in the presence of 150 μl of EMS. After EMS treatment, 0.2 ml of the culture was inoculated into ten tubes each containing 10 ml of M17 and incubated for 3 days for phenotypic expression. The mutation frequency was monitored by plating 0.1 ml from each tube onto M17 plates containing 500 μg/ml of streptomycin.

reactant | glucose | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | streptomycin | C[C@H]1[C@@]([C@H]([C@@H](O1)O[C@@H]2[C@H]([C@@H]([C@H]([C@@H]([C@H]2O)O)NC(=N)N)O)NC(=N)N)O[C@H]3[C@H]([C@@H]([C@H]([C@@H](O3)CO)O)O)NC)(C=O)O | C21H39N7O12
product | Leu | N[C@@H](CC(C)C)C(=O)O | C6H13NO2
